* Z:\mnt\design.r\spice\examples\3491.asc
L1 IN N001 10µ
V1 IN 0 5
C1 N004 0 1µ
XU1 IN 0 N001 N004 N002 N003 LT3491
R1 N004 N002 10
D1 N002 0 NSPW500BS
V2 N003 0 PULSE(.5 1.25 .1m .1m .1m .5m 1.2m)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT3491.sub
.backanno
.end
